US07018994B2
1.5 ml of ethyldiisopropylamine is added in drops at 10° C. to a solution of 1.23 g of pyridine sulfur trioxide complex in 10 ml of dried dimethyl sulfoxide. Then, 1.72 g of 11β-fluoro-7α-{5-[methyl(7,7,8,8,9,9,10,10,10-nonafluorodecyl)amino]pentyl}-estra-1,3,5(10)-triene-3,17β-diol (compound No. Z9) as well as another 10 ml of dried dimethyl sulfoxide are added and stirred for 30 minutes at room temperature. Then, it is diluted with ethyl acetate, washed with saturated sodium bicarbonate solution, water and sodium chloride solution, dried on sodium sulfate, evaporated to the dry state in a vacuum and chromatographed on silica gel with dichloromethane/methanol. 11β-Fluoro-7α-{5-[methyl(7,7,8,8,9,9,10,10,10-nonafluorodecyl)amino]pentyl}estra-1,3,5(10)-trien-3-ol-17-one, [α]D=+58.2°, in chloroform, is obtained.

reactant | ethyldiisopropylamine | 1.5 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 11β-fluoro-7α-{5-[methyl(7,7,8,8,9,9,10,10,10-nonafluorodecyl)amino]pentyl}-estra-1,3,5(10)-triene-3,17β-diol | 1.72 g | F[C@@H]1[C@@H]2C=3C=CC(=CC3C[C@H]([C@H]2[C@@H]2CC[C@@H]([C@@]2(C)C1)O)CCCCCN(CCCCCCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F)C)O | C34H47F10NO2
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
product | 11β-Fluoro-7α-{5-[methyl(7,7,8,8,9,9,10,10,10-nonafluorodecyl)amino]pentyl}estra-1,3,5(10)-trien-3-ol-17-one | F[C@@H]1[C@@H]2C=3C=CC(=CC3C[C@H]([C@H]2[C@@H]2CCC([C@@]2(C)C1)=O)CCCCCN(CCCCCCC(C(C(C(F)(F)F)(F)F)(F)F)(F)F)C)O | C34H45F10NO2
